US08461161B2
A mixture of N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine (300 mg, 1.2 mmol), 6-methylnicotinic acid (182 mg, 1.32 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (277 mg, 1.45 mmol), 4-pyrrolidinopyridine (36 mg, 0.24 mmol) and triethylamine (0.34 mL, 2.4 mmol) in dichloromethane (6 mL) was stirred at room temperature for 72 hours. After this time the mixture was diluted with ethyl acetate (20 mL), washed successively with saturated aqueous sodium hydrogen carbonate (2×15 mL) and brine (15 mL), dried (Na2SO4) and concentrated under reduced pressure to give a yellow oil which was purified by flash chromatography (silica, ethyl acetate/hexanes) to give N-(3-{(1S)-1-[(6-chloropyrazin-2-yl)amino]ethyl}phenyl)-6-methylnicotinamide (380 mg, 86%) as a white solid.

reactant | N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine | 1.2 mmol, 300 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
reactant | 6-methylnicotinic acid | 1.32 mmol, 182 mg | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.45 mmol, 277 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-pyrrolidinopyridine | 0.24 mmol, 36 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | triethylamine | 2.4 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-{(1S)-1-[(6-chloropyrazin-2-yl)amino]ethyl}phenyl)-6-methylnicotinamide | 380 mg, 86% | ClC1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NC(C1=CN=C(C=C1)C)=O | C19H18ClN5O
